US05741801
b) 1-(1-Methyl-1H-indol-3-yl)-3-(4-pyridyl)-3-trimethylsilyioxypropan-1-one
1.6M n-Butyllithium (1.19 ml, 1.90 mmol) was added to dry THF (10 ml) containing. diisopropylamine (0.266 ml, 1.90 mmol) under Ar at 0° C. After 15 mins, the mixture was cooled to -78° C., and 3-acetyl-1-methyl-1H-indole (0.300 g, 1.73 mmol) in dry THF (5 ml) was added slowly. The resulting mixture was left at -78° C. for 1 h, before pyridine-4-carboxaldehyde (0.165 ml, 1.73 mmol) was added. The reaction mixture was then left at -78° C. for 1 h, before being allowed to warm to 0° C., whereupon chlorotrimethylsilane (0.439 ml, 3.46 mmol) was added. The mixture was then allowed to warm to room temp and stirred for 1 h, before being evaporated under reduced pressure and partitioned between dichloromethane and water. The organic layer was then dried (Na2SO4) and evaporated under reduced pressure to give a pale yellow solid which was purified by silica-gel chromatography (EtOAc as eluant) to give the title compound as a yellow solid (0.300 g, 51%).

reactant | n-Butyllithium | 1.90 mmol, 1.6M, 1.19 ml | C(CCC)[Li]
reactant | diisopropylamine | 1.90 mmol, 0.266 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-acetyl-1-methyl-1H-indole | 1.73 mmol, 0.300 g | C(C)(=O)C1=CN(C2=CC=CC=C12)C | C11H11NO
reactant | pyridine-4-carboxaldehyde | 1.73 mmol, 0.165 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | chlorotrimethylsilane | 3.46 mmol, 0.439 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(1-Methyl-1H-indol-3-yl)-3-(4-pyridyl)-3-trimethylsilyioxypropan-1-one | 0.300 g, 51% | CN1C=C(C2=CC=CC=C12)C(CC(O[Si](C)(C)C)C1=CC=NC=C1)=O | C20H24N2O2Si
